US04559354
A solution of 0.85 g of crude 1-[N-benzyl-2-(3-carbamoyl-4-benzyloxyphenoxy)-ethylamino]-3-[4-[1-methyl-1H-imidazol-2-yl]-phenoxy]-2-propanol in 10 ml of methanol is hydrogenated analogously to Example 8. After working up, the 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(1-methyl-1H-imidazol-2-yl)-phenoxy]-2-propanol having a melting point of 108°-112° is obtained.

reactant | 1-[N-benzyl-2-(3-carbamoyl-4-benzyloxyphenoxy)-ethylamino]-3-[4-[1-methyl-1H-imidazol-2-yl]-phenoxy]-2-propanol | 0.85 g | C(C1=CC=CC=C1)N(CC(COC1=CC=C(C=C1)C=1N(C=CN1)C)O)CCOC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(N)=O | C36H38N4O5
solvent | methanol | 10 ml | CO | CH4O
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(1-methyl-1H-imidazol-2-yl)-phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCNCC(COC2=CC=C(C=C2)C=2N(C=CN2)C)O)C=CC1O | C22H26N4O5
